US08293768B2
Synthesis of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with 4-fluorobenzylamine in place of benzylamine, the title compound was obtained as a white powder in 76% yield: mp 146-147° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.27-7.23 (m, 2H), 7.00-6.94 (m, 2H), 6.01 (t, J=5.4 Hz, 1H), 4.48 (d, J=5.4 Hz, 2H), 4.06 (t, J=8.4 Hz, 2H), 3.67 (t, J=8.4 Hz, 2H), 3.13 (d, J=7.2 Hz, 2H), 2.57 (s, 3H), 0.95-0.84 (m, 1H), 0.56-0.48 (m, 2H), 0.23-0.18 (m, 2H); 13C NMR (75 MHz, DMSO-d6) δ 162.5, 162.1, 157.4, 155.2, 153.2, 133.9, 129.5, 116.8, 115.6, 48.6, 43.2, 42.2, 42.1, 17.2, 8.9, 3.4; MS (ES+) m/z 389.2 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H15N3O3S
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
product | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide | 76% yield | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=CC=C(C=C1)F)=O | C19H21FN4O2S
